US06046192
2-Bromo-4'-hydroxyacetophenone (860 mg) was dissolved in dichloromethane (20 ml), and 3,4-dihydro-2H-pyran (550 μl) and pyridinium p-toluenesulfonate (100 mg) were added to the solution at room temperature with stirring. After reaction for 17 hours, the reaction mixture was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed in vacuo. Purification of the residue by medium pressure liquid column chromatography on silica gel (eluent: hexane/ethyl acetate=10/1) gave 2-bromo-4'-((2RS)-2-tetrahydropyranyloxy)acetophenone (1.01 g) having a melting point of 102-104° C.

reactant | 2-Bromo-4'-hydroxyacetophenone | 860 mg | BrCC(=O)C1=CC=C(C=C1)O | C8H7BrO2
reactant | 3,4-dihydro-2H-pyran | 550 μl | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-bromo-4'-((2RS)-2-tetrahydropyranyloxy)acetophenone | 1.01 g | BrCC(=O)C1=CC=C(C=C1)OC1OCCCC1 | C13H15BrO3
